US06576748B1
A mixture of 4,4′-bicyclohexanol (49.5 grams, 0.25 mol; obtained from Sigma-Aldrich), isatoic anhydride (122 grams, 0.75 mol), and 1,4-diazabicyclo[2.2.2]octane (66.0 grams, 0.50 mol) in 200 milliliters of dimethyl formamide was stirred at 120° C. for 1 hour, then was cooled to about 80° C. The solution was then treated first with dimethyl formamide (100 milliliters) and then.with methanol (900 milliliters). The resultant suspension was stirred for 2 hours, and then was filtered. The solid was washed with 4×100 milliliter portions of methanol and was dried at 60° C. for 20 hours. The 4,4′-bicyclohexanediyl dianthranilate product was obtained as a cream solid (58.2 grams, 53 percent yield) which was adjudged by 1H-NMR spectroscopy to be pure (greater than 98 percent). The melting point of this product as measured by, Differential Scanning Calorimetry was 236° C.

reactant | 4,4′-bicyclohexanol | 0.25 mol, 49.5 grams | C1(CCC(CC1)C1CCCCC1)O | C12H22O
reactant | isatoic anhydride | 0.75 mol, 122 grams | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.50 mol, 66.0 grams | N12CCN(CC1)CC2 | C6H12N2
reactant | methanol | 900 milliliters | CO | CH4O
solvent | dimethyl formamide | 200 milliliters | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 milliliters | CN(C=O)C | C3H7NO
product | 4,4′-bicyclohexanediyl dianthranilate | C(C=1C(N)=CC=CC1)(=O)OC1CCC(CC1)C1CCC(CC1)OC(C=1C(N)=CC=CC1)=O | C26H32N2O4
